US07838524B2
Preparation of 4-bromo-N-(2-morpholin-4-yl-ethyl)benzene sulfonamide
The title compound was prepared in the same manner as described for 4-bromo-2-methyl-N-(2-morpholin-4-yl-ethyl)benzene sulfonamide, replacing 4-bromo-2-methyl-benzene sulfonyl chloride with 4-bromobenzene sulfonyl chloride. 1H-NMR (DMSO-d6) δ 7.81 to 7.68 (m, 4H), 7.66 (broad s, 1H), 3.46 (t, J=4.8 Hz, 4H), 2.85 (t, J=6.6 Hz, 2H), 2.28 to 2.21 (m, 6H); MS LC-MS [M+H]+=349 & 351, RT=1.34 min.

reactant | 4-bromo-2-methyl-N-(2-morpholin-4-yl-ethyl)benzene sulfonamide | BrC1=CC(=C(C=C1)S(=O)(=O)NCCN1CCOCC1)C | C13H19BrN2O3S
reactant | 4-bromobenzene sulfonyl chloride | BrC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4BrClO2S
product | 4-bromo-N-(2-morpholin-4-yl-ethyl)benzene sulfonamide | BrC1=CC=C(C=C1)S(=O)(=O)NCCN1CCOCC1 | C12H17BrN2O3S
